US08084469B2
1-(tert-Butoxycarbonyl)-5-[3-fluoro-4-(trifluoromethoxy)phenyl]piperidine-3-carboxylic acid [racemic cis isomer mixture]
3.72 g (8.82 mmol) of 1-tert-butyl 3-methyl 5-[3-fluoro-4-(trifluoromethoxy)phenyl]piperidine-1,3-dicarboxylate were dissolved in 65 ml of methanol and admixed at RT with 9.90 g (88.2 mmol) of potassium tert-butoxide. After a reaction time of 19 hours, the mixture was concentrated under reduced pressure, taken up in 50 ml of water and adjusted to pH=5 with 1 N hydrochloric acid. The aqueous phase was extracted three times with 50 ml each time of ethyl acetate. The combined organic extracts were dried over sodium sulphate, filtered and concentrated under reduced pressure. Yield: 3.11 g (85% of theory)

reactant | 1-tert-butyl 3-methyl 5-[3-fluoro-4-(trifluoromethoxy)phenyl]piperidine-1,3-dicarboxylate | 8.82 mmol, 3.72 g | FC=1C=C(C=CC1OC(F)(F)F)C1CC(CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C19H23F4NO5
reactant | potassium tert-butoxide | 88.2 mmol, 9.90 g | CC(C)([O-])C.[K+]
solvent | methanol | 65 ml | CO | CH4O
product | 1-(tert-Butoxycarbonyl)-5-[3-fluoro-4-(trifluoromethoxy)phenyl]piperidine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(CC(C1)C1=CC(=C(C=C1)OC(F)(F)F)F)C(=O)O | C18H21F4NO5
